US07915427B2
(2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolid ine-2-carboxamide (516 mg) was dissolved in acetonitrile (10 mL) and triethylamine (0.52 mL) was added to the solution. While this mixture was cooled in an ice bath, trifluoroacetic anhydride (0.27 mL) was added dropwise and the mixture was stirred at room temperature for 1 hour. Subsequently, the reaction mixture was concentrated under reduced pressure. Water (5 mL) was added to the residue and the resulting crystal was collected by filtration. The filtered solid was washed with water and was dried under reduced pressure to give (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolidine-2-carbonitrile as a white crystal (339 mg, 70% yield).

reactant | (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolid ine-2-carboxamide | 516 mg | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)N1[C@@H](C[C@@H](C1)F)C(=O)N | C13H15FN2O5S
reactant | triethylamine | 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.27 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (2S,4S)-1-[2-(benzenesulfonyloxy)acetyl]-4-fluoropyrrolidine-2-carbonitrile | 339 mg, 70% yield | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C13H13FN2O4S
